US08912186B2
A mixture of 3-(4-chlorophenyl)glutaric anhydride (0.5 g) and commercial 2-amino-4-chlorothiophenol (0.37 g) is dissolved in boiling dichloromethane (3 ml). The solution is stirred overnight at rt. The precipitate is isolated by suction filtration, washed with dichloromethane, and dried in vacuo. The crude product is recrystallised from acetone to give 0.3 g of 4-(5-chloro-2-benzothiazolyl)-3-(4-chlorophenyl)butanoic acid as colourless crystals.

reactant | 3-(4-chlorophenyl)glutaric anhydride | 0.5 g | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | 2-amino-4-chlorothiophenol | 0.37 g | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-(5-chloro-2-benzothiazolyl)-3-(4-chlorophenyl)butanoic acid | 0.3 g | ClC=1C=CC2=C(N=C(S2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C1 | C17H13Cl2NO2S
